US08957064B2
Step 2: 4-(5-cyano-1H-benzoimidazol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester
A solution of 4-(2-amino-4-cyano-phenylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester (6 g) in EtOH (61 mL) and 2M aq. NaOH solution (61 mL) was heated at 75° C. (bath temperature) overnight. The heating was discontinued, the reaction was chilled (ice water bath) and quenched by pouring into saturated aq. citric acid solution (250 mL). The mixture was extracted with CH2Cl2 (5×) and the combined organic extract was dried (Na2SO4), filtered and concentrated in vacuo.

reactant | 4-(2-amino-4-cyano-phenylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester | 6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NC1=C(C=C(C=C1)C#N)N)=O | C18H24N4O3
solvent | EtOH | 61 mL | CCO | C2H6O
solvent | NaOH | 2M, 61 mL | [OH-].[Na+]
product | 4-(5-cyano-1H-benzoimidazol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC2=C(N1)C=CC(=C2)C#N | C18H22N4O2
